US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylate (100.0 mg, 0.25 mmol) in methanol (30 mL) was added sodium hydroxide (20.0 mg, 0.50 mmol) in water (1 mL) and stirred overnight at room temperature. The reaction mixture was concentrated under vacuum and dissolved in water (10 mL), adjusted to pH 6 with hydrochloric acid (3N). The solid was precipitated and filtered to afford 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylic acid as a light yellow solid as a light yellow solid (23.5 mg, 24%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylate | 0.25 mmol, 100.0 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1NC2=CC=C(C=C2C1)OC)C | C23H24N4O3
reactant | sodium hydroxide | 0.50 mmol, 20.0 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(isopropyl(methyl)amino)-2-(5-methoxy-1H-indol-2-yl)quinoxaline-6-carboxylic acid | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1NC2=CC=C(C=C2C1)OC)C | C22H22N4O3
